US07625893B2
h) 1-Benzyl-4-[4-((S)-3-methoxy-2-methyl-propoxymethyl)-phenyl]-3-(R,S) -trityloxymethyl-1,2,3,6-tetrahydro-pyridine
102.636 mmol of thionyl chloride are slowly added to a solution of 85.53 mmol of 1-benzyl-4-[4-((S)-3-methoxy-2-methyl-propoxymethyl)-phenyl]-3-(R,S)-trityloxymethyl -piperidin-4-(R,S)-ol in 250 ml of pyridine at 0° C., taking care that the internal temperature stays below 10° C. After 5 minutes, the reaction mixture is quenched by adding 50 ml of 4N NaOH solution and concentrated under reduced pressure. The residue is dissolved in ethyl acetate and washed successively with saturated aqueous sodium bicarbonate solution, water and brine, dried with sodium sulfate and evaporated. The residue is purified by flash chromatography (SiO2 60F) to afford the title compound as a yellow oil. Rf=0.28 (EtOAc-heptane-25% ammonia conc. 100:200:1); Rt=5.64 (gradient I).

reactant | thionyl chloride | 102.636 mmol | S(=O)(Cl)Cl | Cl2OS
reactant | 1-benzyl-4-[4-((S)-3-methoxy-2-methyl-propoxymethyl)-phenyl]-3-(R,S)-trityloxymethyl -piperidin-4-(R,S)-ol | 85.53 mmol | C(C1=CC=CC=C1)N1CC(C(CC1)(O)C1=CC=C(C=C1)COC[C@H](COC)C)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C44H49NO4
solvent | pyridine | 250 ml | N1=CC=CC=C1 | C5H5N
product | 1-Benzyl-4-[4-((S)-3-methoxy-2-methyl-propoxymethyl)-phenyl]-3-(R,S) -trityloxymethyl-1,2,3,6-tetrahydro-pyridine | C(C1=CC=CC=C1)N1CC(C(=CC1)C1=CC=C(C=C1)COC[C@H](COC)C)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C44H47NO3
